US06713499B2
To a stirred solution of 5.01 g (20.0 mmol) (1S,4S)-5-(4-methoxy-3-nitro-phenyl)-2-oxa-5-aza-bicyclo[2.2.1]heptane in 375 ml methanol and 62.5 ml dichloromethane was added 500 mg 10% palladium on charcoal and the mixture was then stirred for 3.5 hours at room temperature under an atmosphere of hydrogen. The mixture was then filtered and the filtrate concentrated in vacuo to afford 4.30 g (98%) 2-methoxy-5-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-phenylamine as a brown crystalline solid. ES-MS m/e (%): 221 (M+H+, 100).

reactant | (1S,4S)-5-(4-methoxy-3-nitro-phenyl)-2-oxa-5-aza-bicyclo[2.2.1]heptane | 20.0 mmol, 5.01 g | COC1=C(C=C(C=C1)N1[C@@H]2CO[C@H](C1)C2)[N+](=O)[O-] | C12H14N2O4
solvent | methanol | 375 ml | CO | CH4O
solvent | dichloromethane | 62.5 ml | ClCCl | CH2Cl2
catalyst | palladium on charcoal | 500 mg | [Pd] | Pd
product | 2-methoxy-5-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-phenylamine | 4.30 g, 98% | COC1=C(C=C(C=C1)N1[C@@H]2CO[C@H](C1)C2)N | C12H16N2O2
